US08022062B2
Dissolve 6-(2-amino-ethylamino)-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (70 mg, 0.208 mmol) in DCM (4 mL). Add benzoyl chloride (24 μL, 0.208 mmol), and triethylamine (44 μL, 0.312 mmol) and stir at ambient temperature for 24 h under nitrogen atmosphere. Dilute with DCM and add 1M aqueous HCl. Extract the aqueous layer with DCM. Dry the organic layer over MgSO4 and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (1:0, 7:3 and 1:1) to obtain 6-(2-benzoylamino-ethylamino)-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine.

reactant | 6-(2-amino-ethylamino)-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.208 mmol, 70 mg | NCCNC1=C(C=CC=2CCN(CCC21)C(C(F)(F)F)=O)Cl | C14H17ClF3N3O
reactant | benzoyl chloride | 0.208 mmol, 24 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 0.312 mmol, 44 μL | C(C)N(CC)CC | C6H15N
reactant | HCl | 1M | Cl | ClH
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 6-(2-benzoylamino-ethylamino)-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C1=CC=CC=C1)(=O)NCCNC1=C(C=CC=2CCN(CCC21)C(C(F)(F)F)=O)Cl | C21H21ClF3N3O2
